US08222219B2
5-Bromo-1-(5-methoxybenzo[b]thiophene-2-yl methyl)-2-methylbenzene obtained in Reference Example 158 was treated in a manner similar to Reference Example 132-(1) to give 5-bromo-1-(5-hydroxybenzo[b]thiophen-2-ylmethyl)-2-methylbenzene as colorless powder. ESI-Mass m/Z 331/333 (M−H). (2) The above 5-bromo-1-(5-hydroxybenzo[b]thiophen-2-ylmethyl)-2-methylbenzene and 1-bromo-2-fluoroethane were treated in a manner similar to Reference Example 132-(2) to give the desired 5-bromo-1-(5-(2-fluoroethyloxy)benzo[b]thiophene-2-ylmethyl)-2-methylbenzene.

reactant | 5-bromo-1-(5-hydroxybenzo[b]thiophen-2-ylmethyl)-2-methylbenzene | BrC=1C=CC(=C(C1)CC1=CC2=C(S1)C=CC(=C2)O)C | C16H13BrOS
reactant | 1-bromo-2-fluoroethane | BrCCF | C2H4BrF
product | 5-bromo-1-(5-(2-fluoroethyloxy)benzo[b]thiophene-2-ylmethyl)-2-methylbenzene | BrC=1C=CC(=C(C1)CC1=CC2=C(S1)C=CC(=C2)OCCF)C | C18H16BrFOS
